US08530667B2
To a suspension of 10-oxa-tricyclo[5.2.1.0*2,6*]decane-3,5-dione (9.97 g, 60 mmol) in methanol (200 ml) is added sodium tetrachloroaurate (597 mg, 1.5 mmol) and the reaction mixture is heated to 60° C. for 7 hours. The reaction mixture is allowed to cool down to room temperature and left to stand overnight. The reaction mixture is concentrated under reduced pressure, dissolved in ethyl acetate (200 ml) and washed with aqueous 2N sodium carbonate (100 ml), followed by saturated brine (100 ml). The organic layer is then dried over magnesium sulphate and concentrated under reduced pressure to give 5-methoxy-10-oxa-tricyclo[5.2.1.0*2,6*]dec-4-en-3-one (8.62 g)

reactant | 10-oxa-tricyclo[5.2.1.0*2,6*]decane-3,5-dione | 60 mmol, 9.97 g | C12C3C(CC(C3C(CC1)O2)=O)=O | C9H10O3
reactant | methanol | 200 ml | CO | CH4O
catalyst | sodium tetrachloroaurate | 1.5 mmol, 597 mg | [Na+].Cl[Au-](Cl)(Cl)Cl
product | 5-methoxy-10-oxa-tricyclo[5.2.1.0*2,6*]dec-4-en-3-one | 8.62 g | COC1=CC(C2C3CCC(C12)O3)=O | C10H12O3
